US04312631
(b) Preparation of the sulfosuccinic acid semiester
652 Parts of the above rosin alcohol oxalkylation product are esterified with 98 parts of maleic anhydride at 50° to 80° C., while stirring, and after diluting the mixture with water, from 132.3 to 138.6 parts of sodium sulfite (as an aqueous solution) are introduced by stirring at 40° to 80° C. within 15 to 120 minutes, until the mixture has become clearly water-soluble. Subsequently, stirring is continued for 1 hour. The amount of water added may be in the range of from 50 to 85% by weight of the final solution.

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | O | H2O
product | sulfosuccinic acid | S(=O)(=O)(O)C(C(=O)O)CC(=O)O | C4H6O7S
